US07135475B2
A solution of 1H-Imidazole-4-carboxylic acid methyl ester (1.0 g, 7.93 mmol) in N,N-dimethylformamide at 25° C. was treated with triethylamine (2.2 mL, 15.86 mmol) and triphenylmethylchloride (2.43 g, 8.72 mmol). The reaction was stirred at 25° C. for 8 h and then concentrated in vacuo. The residue was diluted with ethyl acetate and then washed with water, a 1N aqueous hydrochloric acid solution, water, and a saturated aqueous sodium chloride solution. The organics were dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 50:50 ethyl acetate/petroleum ether) afforded 1-trityl-1H-imidazole-4-carboxylic acid methyl ester (2.88 g, 98.6%) as a white foam: 1H NMR (DMSO-d6, 300 MHz) δ7.56 (s, 1H), 7.47 (m, 10H), 7.09 (m, 6H), 3.69 (s, 3H).

reactant | 1H-Imidazole-4-carboxylic acid methyl ester | 7.93 mmol, 1.0 g | COC(=O)C=1N=CNC1 | C5H6N2O2
reactant | triethylamine | 15.86 mmol, 2.2 mL | C(C)N(CC)CC | C6H15N
reactant | triphenylmethylchloride | 8.72 mmol, 2.43 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-trityl-1H-imidazole-4-carboxylic acid methyl ester | 2.88 g, 98.6% | COC(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H20N2O2
